US07268135B2
Alkylation of 1-Bromomethyl-2-nitro-benzene with 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol was carried out according to procedures in Step 5A for Example 2A to give 4,4,5,5-Tetramethyl-2-[4-(2-nitro-benzyloxy)-phenyl]-[1,3,2]dioxaborolane in 62% yield. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.3 (s, 12 H) 5.5 (s, 2 H) 7.0 (d, J=8.6 Hz, 2 H) 7.5 (m, 1 H) 7.7 (m, 1 H) 7.8 (d, J=8.6 Hz, 2 H) 7.9 (dd, J=7.8, 1.0 Hz, 1 H) 8.2 (dd, J=8.1, 1.3 Hz, 1 H).

reactant | 1-Bromomethyl-2-nitro-benzene | BrCC1=C(C=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
product | 4,4,5,5-Tetramethyl-2-[4-(2-nitro-benzyloxy)-phenyl]-[1,3,2]dioxaborolane | 62% yield | CC1(OB(OC1(C)C)C1=CC=C(C=C1)OCC1=C(C=CC=C1)[N+](=O)[O-])C | C19H22BNO5
